US08247556B2
The mixture of 1-(4,4-dimethyl-7-nitro-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.97 g) and Pd/C (10 wt %, 0.20 g) in 10 ml of MeOH was placed under H2 and stirred at RT for 2 h then filtered through a pad of Celite. Removal of the solvents gave 1-(7-amino-4,4-dimethyl-3,4-dihydroquinolin-1(2H)-yl)ethanone as an off-white viscous oil.

reactant | 1-(4,4-dimethyl-7-nitro-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.97 g | CC1(CCN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C13H16N2O3
solvent | MeOH | 10 ml | CO | CH4O
catalyst | Pd/C | 0.20 g | [Pd] | Pd
product | 1-(7-amino-4,4-dimethyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | NC1=CC=C2C(CCN(C2=C1)C(C)=O)(C)C | C13H18N2O
